US06372764B1
1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(1-morpholinomethyl)pyrrolidine
To a solution of 0.03 g (0.073 mmol) of 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine and 0.013 mL (0.145 mmol) of morpholine in 2 mL of dichloroethane at rt was added 0.046 g (0.27 mmol) of sodium triacetoxyborohydride. After stirring for 1.5 h at rt, the reaction mixture was partitioned between CH2Cl2 and sat'd NaHCO3. The organic fraction was dried over Na2SO4, filtered and the filtrate was concentrated. The residue was purified by chomatography (silica, CH2Cl2:MeOH, 95:5) to give the title compound. 1H NMR (CDCl3) δ (complete) 7.87-7.90 (m, 3H), 7.45-7.55 (m, 4H), 7.17-7.20, 7.08-7.11 (m, 2H), 7.00, 6.95 (t, 2H, J=9.0 Hz),4.03-4.09 (m, 1H), 3.72 (t, 2H, <J=4.5 Hz), 3.60-3.64 (m, 1H), 3.56 (t, 2H, J=4.5 Hz), 2.97-3.06 (m, 2H), 2.82-2.88 (m, 1H), 2.43-2.55 (m, 4H), 2.24-2.43 (m, 5H), 2.09-2.19 (m, 3H), 1.49-1.98 (m, 5H); Mass Spectrum (ESI) m/e=516 (M+1).

reactant | 1-(1-naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(SR)-formylpyrrolidine | 0.073 mmol, 0.03 g | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)C=O)CN1CCC(CC1)C1=CC=C(C=C1)F | C28H29FN2O2
reactant | morpholine | 0.145 mmol, 0.013 mL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 0.27 mmol, 0.046 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 2 mL | ClC(C)Cl | C2H4Cl2
product | 1-(1-Naphthoyl)-3-(RS)-(4-(4-fluorophenyl)piperidinylmethyl)-4-(RS)-(1-morpholinomethyl)pyrrolidine | C1(=CC=CC2=CC=CC=C12)C(=O)N1CC(C(C1)CN1CCOCC1)CN1CCC(CC1)C1=CC=C(C=C1)F | C32H38FN3O2
